Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p PVI
 
Major Surgical or Invasive Procedure:
PVI
 
History of Present Illness:
___ year old male with PMH significant for OSA(compliant with 
CPAP) hypertension, hyperlipidemia, atrial
fibrillation/flutter who presents for scheduled pulmonary vein
isolation.

 
Past Medical History:
afib
OSA
HTN
HL

 
Family History:
non contributory
 
Physical Exam:
Discharge PE:
T:98.5 BP:134/85 P:96 RR: 20 02 sat: 93% on room air Pain: ___ 
General: in no acute distress
Neuro: alert and oriented x3
Resp: few rhonci that cleared with coughing otherwise clear 
bilaterally
CV: RRR, normal s1,s2, no murmurs
 Pulses: 
 DP:(+) ___
 Abd: +bs, soft nontender
Extremity: no edema
Skin: ___ groin sites clean, intact. Small amount of red blood on 
left dressing.

 
Pertinent Results:
___ 11:25PM   TYPE-ART TEMP-36.6 PO2-82* PCO2-59* PH-7.29* 
TOTAL CO2-30 BASE XS-0 INTUBATED-NOT INTUBA COMMENTS-CPAP
___ 11:25PM   O2 SAT-94
___ 05:54PM   ___ PO2-56* PCO2-66* PH-7.24* TOTAL 
CO2-30 BASE XS-0
___ 04:32PM   ___ PO2-54* PCO2-61* PH-7.28* TOTAL 
CO2-30 BASE XS-0
___ 03:59PM   ___ PO2-55* PCO2-58* PH-7.28* TOTAL 
CO2-28 BASE XS-0
___ 03:17PM   ___ PO2-50* PCO2-57* PH-7.30* TOTAL 
CO2-29 BASE XS-0
___ 02:46PM   ___ PO2-58* PCO2-59* PH-7.29* TOTAL 
CO2-30 BASE XS-0 INTUBATED-INTUBATED VENT-CONTROLLED 
COMMENTS-JET
___ 10:35AM   GLUCOSE-120* UREA N-14 CREAT-0.8 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-97 TOTAL CO2-26 ANION GAP-18
___ 10:35AM   estGFR-Using this
___ 10:35AM   estGFR-Using this
___ 10:35AM   PLT COUNT-189
___ 10:35AM   PLT COUNT-___trial fibrillation: s/p PVI. Now in SR. CHA2DS2-VASc risk 
score 2
-follow up with Dr. ___ as scheduled on ___
-ASA 325mg daily for 1 month
-PPI daily for 1 month
-colchicine for 1 month
- continue diltiazem
- started flecainide 100mg PO BID
-Lasix 20mg PO daily only for 2 doses : ___ and ___
-continue Warfarin, monitored by ___ clinic. Pt 
instructed to get INR level drawn on ___ per Dr. ___ 
follow up with ___ clinic. 

#Diabetes:diet controlled
-continue ___

#Sleep apnea:
-continue CPAP

#Asthma
- continue albuterol PRN, Flovent, Spiriva

# HTN
- continue enalapril, diltiazem, HCTZ

#HL
- continue atorvastatin

#Dispo: Home. Seen in rounds by Dr. ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 10 mg PO DAILY 
2. Hydrocortisone Cream 1% 1 Appl TP DAILY:PRN itchiness 
3. mometasone 0.1 % topical 3X/WEEK 
4. Fish Oil (Omega 3) Dose is Unknown  PO BID 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Diltiazem Extended-Release 120 mg PO DAILY 
7. Warfarin 2.5 mg PO DAILY16 
8. Atorvastatin 40 mg PO QPM 
9. Multivitamins 1 TAB PO DAILY 
10. Fluticasone Propionate 110mcg 1 PUFF IH DAILY 
11. DULoxetine 60 mg PO QAM 
12. DULoxetine 30 mg PO QPM 
13. albuterol sulfate 90 mcg/actuation inhalation BID:PRN 
14. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY Duration: 30 Days  
2.  Colchicine 0.6 mg PO DAILY  
3.  Flecainide Acetate 100 mg PO Q12H  
4.  Furosemide 20 mg PO DAILY Duration: 2 Days 
take 1 tablet on ___ and 1 tablet on ___ then stop  
5.  Pantoprazole 40 mg PO Q24H  
6.  Fish Oil (Omega 3) 1000 mg PO BID  
7.  albuterol sulfate 90 mcg/actuation inhalation BID:PRN  
8.  Atorvastatin 40 mg PO QPM  
9.  Diltiazem Extended-Release 120 mg PO DAILY  
10.  DULoxetine 60 mg PO QAM  
11.  DULoxetine 30 mg PO QPM  
12.  Enalapril Maleate 10 mg PO DAILY  
13.  Fluticasone Propionate 110mcg 1 PUFF IH DAILY  
14.  Hydrochlorothiazide 25 mg PO DAILY  
15.  Hydrocortisone Cream 1% 1 Appl TP DAILY:PRN itchiness  
16.  mometasone 0.1 % topical 3X/WEEK  
17.  Multivitamins 1 TAB PO DAILY  
18.  Tiotropium Bromide 1 CAP IH DAILY  
19.  Warfarin 2.5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atrial fibrillation s/p PVI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

PE:
T:98.5   BP:134/85    P:96    RR: 20   02 sat: 93% on room air   
Pain: ___   
General: in no acute distress
Neuro: alert and oriented x3
Resp:  few rhonci that cleared with coughing otherwise clear 
bilaterally
CV: RRR, normal s1,s2, no murmurs
  Pulses: 
    DP:(+)   ___
    Abd: +bs, soft nontender
Extremity: no edema
Skin: ___ groin sites clean, intact. Small amount of red blood on 
left dressing.

Pertinent ___ Na 137 K 3.7 Cl 26 BUN 14 Cr 0.8 INR 2.9 
WBC 7.9 Hct 47.2 Plts 189
                      
Telemetry: SR
 
Assessment/Plan: ___ y/o male with PMH of diabetes type2,  OSA
(compliant with CPAP) hypertension, hyperlipidemia, atrial
fibrillation/flutter who presents for scheduled pulmonary vein
isolation.

#Atrial fibrillation: s/p PVI. Now in SR. CHA2DS2-VASc risk 
score 2
-follow up with Dr. ___ as scheduled on ___
-ASA 325mg daily for 1 month
-PPI daily for 1 month
-colchicine for 1 month
- continue diltiazem
- started flecainide 100mg PO BID
-Lasix 20mg PO daily only for 2 doses : ___ and ___
-continue Warfarin, monitored by ___ clinic. Pt 
instructed to get INR level drawn on ___ per Dr. ___ 
follow up with ___ clinic. 

#Diabetes:diet controlled
-continue ___

#Sleep apnea:
-continue CPAP

#Asthma
- continue albuterol PRN, Flovent, Spiriva

# HTN
- continue enalapril, diltiazem, HCTZ

#HL
- continue atorvastatin
   
#Dispo: Home. Seen in rounds by Dr. ___.  

 
Discharge Instructions:
You had an pulmonary vein isolation to treat your atrial 
fibrillation.

Continue all your current medications with the following 
changes:
- We added: flecainide to help keep your heart rhythm normal. 
Take this as instructed. Pantoprazole to help prevent irritation 
to your stomach after your procedure. Aspirin 325mg daily for a 
blood thinner, in addition to your Coumadin. You need to take 
aspirin 1 tablet daily for 30 days. Colchicine daily to help 
reduce inflammation and reduce the chances you will go back to 
having an irregular heart rhythm. You only need to take this for 
the next ___ days. Furosemide 20mg daily only for the next two 
days ___ and ___ then stop. This will help get rid of 
extra fluid. 

Activity restrictions and care of the incision site are included 
in your discharge instructions.

Continue to use your CPAP machine as instructed nightly. 

You have been given an updated list of current medications.

It has been a pleasure to have participated in your care. If you 
have any questions that are related to your recovery from your 
procedure or are experiencing any symptoms that are concerning 
to you, please call the ___ HeartLine at ___ to speak 
to a cardiologist or cardiac nurse practitioner.
If your followed at ___, then please call  
___ or your Doctor’s office.
 
Followup Instructions:
___